* c:\users\vinit\desktop\summation-of-counter\vinit_xor1\vinit_xor1.cir

.include "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__diode_pd2nw_11v0.model.spice"
.include "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__pnp.model.spice"
.include "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__inductors.model.spice"
.include "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__linear.model.spice"
.include "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__diode_pw2nd_11v0.model.spice"
.include "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__r+c.model.spice"
.lib "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130.lib.spice" tt
xsc3 net-_sc13-pad1_ a net-_sc3-pad3_ net-_sc3-pad3_ sky130_fd_pr__nfet_01v8_lvt 
xsc1 net-_sc1-pad1_ a net-_sc1-pad3_ net-_sc1-pad3_ sky130_fd_pr__pfet_01v8_lvt 
xsc5 net-_sc5-pad1_ net-_sc10-pad1_ net-_sc1-pad3_ net-_sc1-pad3_ sky130_fd_pr__pfet_01v8_lvt 
xsc7 net-_sc13-pad1_ net-_sc10-pad1_ net-_sc7-pad3_ net-_sc7-pad3_ sky130_fd_pr__nfet_01v8_lvt 
xsc4 net-_sc3-pad3_ b gnd gnd sky130_fd_pr__nfet_01v8_lvt 
xsc8 net-_sc7-pad3_ net-_sc11-pad1_ gnd gnd sky130_fd_pr__nfet_01v8_lvt 
xsc2 net-_sc13-pad1_ net-_sc11-pad1_ net-_sc1-pad1_ net-_sc1-pad1_ sky130_fd_pr__pfet_01v8_lvt 
xsc6 net-_sc13-pad1_ b net-_sc5-pad1_ net-_sc5-pad1_ sky130_fd_pr__pfet_01v8_lvt 
v2  a gnd pulse(0 5 1 1n 1n 1 2)
v3  b gnd pulse(0 5 2 1n 1n 2 4)
v1 net-_sc1-pad3_ gnd  dc 5
* s c m o d e
* u1  a plot_v1
* u2  b plot_v1
xsc12 net-_sc11-pad1_ b gnd gnd sky130_fd_pr__nfet_01v8_lvt 
xsc11 net-_sc11-pad1_ b net-_sc1-pad3_ net-_sc1-pad3_ sky130_fd_pr__pfet_01v8_lvt 
xsc10 net-_sc10-pad1_ a gnd gnd sky130_fd_pr__nfet_01v8_lvt 
xsc9 net-_sc10-pad1_ a net-_sc1-pad3_ net-_sc1-pad3_ sky130_fd_pr__pfet_01v8_lvt 
* u3  y plot_v1
xsc13 net-_sc13-pad1_ y net-_sc13-pad1_ sky130_fd_pr__res_generic_pd l=10 w=1
xsc14 y gnd sky130_fd_pr__cap_mim_m3_1 l=100 w=100
.tran 0.001e-00 10e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(a)
plot v(b)
plot v(y)
.endc
.end
